US06599925B2
6-Bromo-1-methyl-2-naphthol
6-Bromo-1-[(dimethylamino)methyl]-2-naphthyl acetate hydrochloride (6.4 g, 0.0179 mol) was stirred in ethanol (250 mL). Sodium borohydride (3.0 g, 0.078 mol) was added portion-wise. The mixture was heated at reflux for 2 hours, then cooled to room temperature and water (100 mL) was added. The mixture was stirred for ½ hour then acidified with 2N hydrochloric acid. The ethanol was evaporated and the mixture was extracted with ethyl acetate. The extracts were washed with 2N hydrochloric acid, then with water, dried over anhydrous magnesium sulfate and solvent evaporated to give the title compound as a solid, mp 127-129° C. 1HNMR (500 MHz, DMSO-d6): δ9.66 (s, 1H), 8.01 (s, 1H), 7.80 (d, 1H, J=9.2 Hz), 7.60 (d, 1H, J=8.7 Hz), 7.53 (d, 1H, J-9.0 Hz), 7.19 (d, 1H, J=8.9 Hz), 2.80 (s, 6H), and 2.39 ppm (s, 3H). Elemental Analysis for C11H9BrO: Calculated: C, 55.72; H, 3.83; N, 0.00. Found: C, 55.81; H, 3.82; N, 0.00.

reactant | 6-Bromo-1-[(dimethylamino)methyl]-2-naphthyl acetate hydrochloride | 0.0179 mol, 6.4 g | Cl.C(C)(=O)OC1=C(C2=CC=C(C=C2C=C1)Br)CN(C)C
reactant | Sodium borohydride | 0.078 mol, 3.0 g | [BH4-].[Na+]
reactant | water | 100 mL | O | H2O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 6-Bromo-1-methyl-2-naphthol | BrC=1C=C2C=CC(=C(C2=CC1)C)O | C11H9BrO
